US05610144
By proceeding in a fashion similar to that described in Example 9, but starting from 3 g of ethyl (cis)-3-{3-[2-(2,5-diphenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoate in solution in 50 cm3 of methanol and 0.7 g of potassium hydroxide dissolved in 20 cm3 of water and after treatment and recrystallization in ethanol, 2 g of (cis)-3-{3-[2-(2,5-diphenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid, melting at 255° C., are obtained.

reactant | ethyl (cis)-3-{3-[2-(2,5-diphenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoate | 3 g | C1(=CC=CC=C1)[C@@H]1N([C@@H](CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C(=O)OCC)C=CC1)=O)=O | C28H29N3O4
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
solvent | methanol | 50 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | (cis)-3-{3-[2-(2,5-diphenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid | 2 g | C1(=CC=CC=C1)[C@@H]1N([C@@H](CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C26H25N3O4
